US05545636
Methyl-5-azido-2,5 dideoxy-D-ribose
To a solution of methyl-2-deoxy-5-O-tosyl-D-ribose (13.6 g, 45 mmol) in DMF (250 mL) was added sodium azide (4.4 g, 67 mmol). The mixture was refluxed for 4 hours, cooled to room temperature, quenched with ice water (1.5 mL), and extracted with ethyl-acetate. The extract was washed with water, dried, and concentrated to give an oil (6.2 g, 86% yield). NMR

reactant | methyl-2-deoxy-5-O-tosyl-D-ribose | 45 mmol, 13.6 g | CC(=O)C[C@H](O)[C@H](O)COS(=O)(=O)C1=CC=C(C)C=C1 | C13H18O6S
reactant | sodium azide | 67 mmol, 4.4 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | Methyl-5-azido-2,5 dideoxy-D-ribose | 6.2 g, 86% yield | CC(=O)C[C@H](O)[C@H](O)CN=[N+]=[N-] | C6H11N3O3
